US07968585B2
1-Cyanomethyl-cyclohexanecarboxylic acid methyl ester
Treat a −78° C. solution of methyl cyclohexane carboxylate (15.0 g, 0.105 mol) in THF (150 mL) with a 2M solution of lithium diisopropylamide in heptane/THF/ethylbenzene (63.3 mL, 0.126 mol) and stir at −78° C. for 20 minutes under N2. Treat the reaction with bromoacetonitrile (25.31 g, 0.211 mol) and stir at −78° C. for 15 minutes. Warm the reaction to room temperature and stir 4 hours. Acidify the reaction with 1 N HCl and then dilute the reaction with ethyl acetate and wash with water. Dry the organic layer (Na2SO4) and remove the solvent in vacuo to afford crude product. Purify with a 0 to 30% ethyl acetate in hexanes gradient on silica gel to afford 7.78 g (41%) of the titled product. Rf=0.32 (3/1 hexanes/ethyl acetate).

reactant | methyl cyclohexane carboxylate | 0.105 mol, 15.0 g | C1(CCCCC1)C(=O)OC | C8H14O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane THF ethylbenzene | 0.126 mol, 63.3 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | bromoacetonitrile | 0.211 mol, 25.31 g | BrCC#N | C2H2BrN
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Cyanomethyl-cyclohexanecarboxylic acid methyl ester | 7.78 g, 41% | COC(=O)C1(CCCCC1)CC#N | C10H15NO2
